US04494979
A suspension containing 2,3-dihydro-2,2-dimethyl-6-lithio-7-methoxybenzofuran is prepared as described in Example 1. The suspension is cooled in an ice-water bath and 13.3 g of N-chlorosuccinimide is added. The suspension is stirred at room temperature for eight hours and then acidified with cold aqueous sulfuric acid. The organic phase is separated, washed with water saturated with sodium chloride, then dried over sodium sulfate. The solvent is evaporated to give crude 6-chloro-2,3-dihydro-2,2-dimethyl-7-methoxybenzofuran.

reactant | 2,3-dihydro-2,2-dimethyl-6-lithio-7-methoxybenzofuran | CC1(OC2=C(C1)C=CC(=C2OC)[Li])C
reactant | N-chlorosuccinimide | 13.3 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 6-chloro-2,3-dihydro-2,2-dimethyl-7-methoxybenzofuran | ClC1=C(C2=C(CC(O2)(C)C)C=C1)OC | C11H13ClO2
